US04096265
A mixture of 198 mg (0.5 mmole) of 2-cyano-5,5-dimethyl-8-(1,2-dimethylheptyl)-10-methoxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine and 2.7 mg (0.05 mmole) of sodium methoxide in 8 ml of methanol was refluxed with stirring for 3 hours and allowed to stir overnight at ambient temperature. Ammonium chloride (29.4 mg; 0.55 mmole) was added and the stirring was continued for an additional 2 hours. The reaction mixture was concentrated on a rotary evaporator to give a residue to which was added 1 ml of diethyl ether. The solid was collected by filtration to give 138 mg in two crops (59%) of methyl 5,5-dimethyl-8-(1,2-dimethylheptyl)-10-methoxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine-2-carboximidate as a light yellow solid, m.p. 134°-36° C. The ir and nmr spectra confirmed the structure.

reactant | 2-cyano-5,5-dimethyl-8-(1,2-dimethylheptyl)-10-methoxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | 0.5 mmole, 198 mg | C(#N)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1OC)C(C(CCCCC)C)C | C25H36N2O2
reactant | sodium methoxide | 0.05 mmole, 2.7 mg | C[O-].[Na+]
reactant | Ammonium chloride | 0.55 mmole, 29.4 mg | [Cl-].[NH4+]
reactant | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | methanol | 8 ml | CO | CH4O
product | methyl 5,5-dimethyl-8-(1,2-dimethylheptyl)-10-methoxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine-2-carboximidate | 59% | CC1(OC2=C(C(=CC(=C2)C(C(CCCCC)C)C)OC)C2=C1CCN(C2)C(OC)=N)C | C26H40N2O3
